US04868202
(2-Chloro-3,3,3-trifluoropropen-1-yl)-2,3-dichlorobenzene
A solution of 59.0 g of (1-acetoxy-2,2-dichloro-3,3,3-trifluoropropyl)-2,3-dichlorobenzene in 350 ml of acetic acid is heated to 40° C., and 13.0 g of zinc powder are added portionwise. To effect completion of the reaction, the reaction mixture is heated at 90° C. for 3 hours. In further processing, thereaction mixture is taken up in ice-water, and extracted with ether. The combined organic phases are washed with water, sodium hydrogen carbonate solution and sodium chloride solution; they are then dried over magnesium sulfate, and concentrated by evaporation to thus obtain (2-chloro-3,3,3-trifluoropropen-1-yl)-2,3-dichlorobenzene in the form of yellow oil (compound No. 4.10).

reactant | (1-acetoxy-2,2-dichloro-3,3,3-trifluoropropyl)-2,3-dichlorobenzene | 59.0 g | C(C)(=O)OC(C(C(F)(F)F)(Cl)Cl)C1=C(C(=CC=C1)Cl)Cl | C11H7Cl4F3O2
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 13.0 g | [Zn] | Zn
product | (2-Chloro-3,3,3-trifluoropropen-1-yl)-2,3-dichlorobenzene | ClC(=CC1=C(C(=CC=C1)Cl)Cl)C(F)(F)F | C9H4Cl3F3
